US05670654
2-Nitroaniline (13.8 g, 0.1 mole) was dissolved in glacial acetic acid (70 mL) by heating on a hot plate. It was cooled to room temperature. Conc. hydrochloric acid (28 mL, 36% solution) was added to form a slurry of 2-nitroaniline hydrochloride. This was done separately in a 500-mL Erlenmeyer flask. It was set for a magnetic stirring in an ice-salt-dry ice bath (-10° C.). Then a solution of sodium nitrite (6.9 g, 0.1 mole) in 20 mL dist. water was added dropwise over 15 min. to the stirring slurry of 2-nitroaniline hydrochloride. A clear light yellow homogeneous solution of the diazonium salt was obtained. This was stirred at the same temperature (-10° to -5° C.) for next 10 min. Resorcinol (12.0 g, about 0.1 mole) was dissolved in 200 mL water in the previously described 4-L reactor which was being cooled in an ice-salt bath and being mechanically stirred, then the diazonium solution was added dropwise through a dropping funnel over 10-15 min. The bright-red azo dye formed instantly. After the complete addition, the reactor was allowed to warm to room temperature as ice melted in the ice-bath. After 2 hours, 1 L water was added to it, stirred, and solid azo dye was allowed to settle (without stirring) for 4 hours. Aqueous part was carefully decanted off from the azo dye. The decanting process was repeated 2 times more in order to remove most of HCl, acetic acid and NaCl. The residual water from the reactor was driven out by azeotropic reflux in 2L of toluene. When no more water came out, toluene was distilled off as much as possible. Residual toluene was removed by using in-house vacuum. Part A is complete at this point while azo dye was not removed from the reactor.

reactant | 2-Nitroaniline | 0.1 mole, 13.8 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | hydrochloric acid | 28 mL | Cl | ClH
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 2-nitroaniline hydrochloride | Cl.[N+](=O)([O-])C1=C(N)C=CC=C1 | InChI=1S/C6H6N2O2.ClH/c7-5-3-1-2-4-6(5)8(9)10;/h1-4H,7H2;1H
